US06552017B1
Tert-butyl (6bR, 10aS)-5-(2,4-dichlorophenyl)-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate (37 mg, 60%) was prepared via coupling of tert-butyl (6bR, 10aS)-5-bromo-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate (50 mg, 0.13 mmol) with 2,4-dichlorophenyl boronic acid (74 mg, 0.39 mmol) as illustrated above using the general procedure for Suzuki coupling. 1H NMR (CDCl3, 300 MHz) δ 1.46 (s, 9H), 1.82-1.96 (m, 2H), 2.74-2.82 (m, 1H), 2.99-3.05 (m, 1H), 3.16-3.22 (m, 2H), 3.33-3.39 (m, 1H), 3.43-3.50 (m, 1H), 3.52-3.57 (m, 1H), 3.62-3.69 (m, 1H), 3.43-3.50 (m, 1H), 3.52-3.57 (m, 1H), 3.62-3.69 (m, 1H), 3.71-3.79 (m, 1H), 3.80-3.85 (m, 1H), 3.89-4.14 (m, 1H), 6.44 (s, 1H), 6.59 (s, 1H), 7.22 (s, 2H), 7.42 (s, 1H) ppm.

reactant | tert-butyl (6bR, 10aS)-5-bromo-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | 0.13 mmol, 50 mg | BrC=1C=C2C=3N(CCNC3C1)[C@@H]1[C@H]2CN(CC1)C(=O)OC(C)(C)C | C18H24BrN3O2
reactant | 2,4-dichlorophenyl boronic acid | 0.39 mmol, 74 mg | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
product | Tert-butyl (6bR, 10aS)-5-(2,4-dichlorophenyl)-2,3,6b,9,10,10a-hexahydro-1H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxaline-8(7H)-carboxylate | 37 mg, 60% | ClC1=C(C=CC(=C1)Cl)C=1C=C2C=3N(CCNC3C1)[C@@H]1[C@H]2CN(CC1)C(=O)OC(C)(C)C | C24H27Cl2N3O2
